US08703795B2
a) [2-(4-Phenoxy-phenyl)-4,6-dioxo-3a,4,6,6a-tetrahydro-thieno[2,3-c]pyrrol-5-yl]-acetic acid ethyl ester
The title compound was prepared from (2-bromo-4,6-dioxo-3a,4,6,6a-tetrahydro-thieno[2,3-c]pyrrol-5-yl)-acetic acid ethyl ester, example 1-d, and 4-phenoxy-phenyl boronic acid under conditions analogous to experimental example 3-a. 1H NMR (CDCl3, 200 MHz): δ=7.58-7.54 (d, J=8.97 Hz, 2H), 7.41-7.34 (m, 3H), 7.20-7.0 (m, 4H), 4.35 (s, 2H), 4.27-4.17 (q, J=7.0, 2H), 1.32-1.25 (t, J=7.0 Hz, 3H).

reactant | (2-bromo-4,6-dioxo-3a,4,6,6a-tetrahydro-thieno[2,3-c]pyrrol-5-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C2C(C1=O)C=C(S2)Br)=O)=O | C10H10BrNO4S
reactant | 4-phenoxy-phenyl boronic acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
product | [2-(4-Phenoxy-phenyl)-4,6-dioxo-3a,4,6,6a-tetrahydro-thieno[2,3-c]pyrrol-5-yl]-acetic acid ethyl ester | C(C)OC(CN1C(C2C(C1=O)C=C(S2)C2=CC=C(C=C2)OC2=CC=CC=C2)=O)=O | C22H19NO5S
